US04418138
Bis(2-chloroethyl)ether (94.4 g), ethanol (250 ml) and water (90 ml) were stirred together under reflux, and a solution of sodium sulphite (25.0 g) in distilled water (90 ml) was added to the stirred, refluxing reaction mixture over a period of 2 hours. After the addition, refluxing was continued for two hours after which time the excess alcohol and bis(2-chloro-ethyl) ether were removed by distillation. The remaining aqueous solution was evaporated to dryness on a water bath to give a white crystalline solid, which was stirred with diethyl ether and filtered to yield sodium 2-chloroethoxyethyl sulphonate.

reactant | Bis(2-chloroethyl)ether | 94.4 g | ClCCOCCCl | C4H8Cl2O
reactant | ethanol | 250 ml | C(C)O | C2H6O
reactant | sodium sulphite | 25.0 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | water | 90 ml | O | H2O
solvent | water | 90 ml | O | H2O
product | sodium 2-chloroethoxyethyl sulphonate | ClCCOCCS(=O)(=O)[O-].[Na+] | InChI=1S/C4H9ClO4S.Na/c5-1-2-9-3-4-10(6,7)8;/h1-4H2,(H,6,7,8);/q;+1/p-1
